US04873262
2-Dipropylamino-8-ureidomethyl-1,2,3,4-tetrahydronaphthalene
2.6 g (10 mmol) of 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene were dissolved in 22 ml of 1N hydrochloric acid under nitrogen. A solution of 0.81 g (10 mmol) of potassium cyanate and 6 ml of water was subsequently added dropwise at a maximum of +25° C., and the batch was allowed to react for 4 h at room temperature. 20 ml of diethyl ether were then added. The aqueous phase was separated off and adjusted to pH 9 using 1N sodium hydroxide solution. The precipitated reaction product was filtered off under suction and dried at +40° C. in vacuo. The product was purified by recrystallization from methanol.

reactant | 2-dipropylamino-8-aminomethyl-1,2,3,4-tetrahydronaphthalene | 10 mmol, 2.6 g | C(CC)N(C1CC2=C(C=CC=C2CC1)CN)CCC | C17H28N2
reactant | potassium cyanate | 10 mmol, 0.81 g | [O-]C#N.[K+]
reactant | water | 6 ml | O | H2O
reactant | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | hydrochloric acid | 1N, 22 ml | Cl | ClH
product | 2-Dipropylamino-8-ureidomethyl-1,2,3,4-tetrahydronaphthalene | C(CC)N(C1CC2=C(C=CC=C2CC1)CNC(=O)N)CCC | C18H29N3O
